US07396958B2
ethyl-N-[4-chloro-2-(2-chlorobenzyl)phenyl]-N-[(3-methoxyphenyl)sulfonyl]glycinate
To 0.525 g of N-[4-chloro-2-(2-chlorobenzyl)phenyl]-2-methoxybenzenesulfonamide dissolved in 6 ml of DMF is added, at 0° C., 0.065 g of sodium hydride, after 40 minutes at this temperature 0.14 ml of ethyl 2-bromoacetate is introduced, and the mixture is left at room temperature for 18 hours. The reaction medium is taken up in ethyl acetate and washed with water. The organic phase is dried over anhydrous sodium sulfate and concentrated. The residue is chromatographed on a column of silica gel, eluting with a 90/10 (v/v) cyclohexane/ethyl acetate solvent mixture to give 0.272 g of the expected product, in the form of an oil.

reactant | N-[4-chloro-2-(2-chlorobenzyl)phenyl]-2-methoxybenzenesulfonamide | 0.525 g | ClC1=CC(=C(C=C1)NS(=O)(=O)C1=C(C=CC=C1)OC)CC1=C(C=CC=C1)Cl | C20H17Cl2NO3S
reactant | sodium hydride | 0.065 g | [H-].[Na+]
reactant | ethyl 2-bromoacetate | 0.14 ml | BrCC(=O)OCC | C4H7BrO2
reactant | DMF | 6 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl-N-[4-chloro-2-(2-chlorobenzyl)phenyl]-N-[(3-methoxyphenyl)sulfonyl]glycinate | 0.272 g | C(C)OC(CN(S(=O)(=O)C1=CC(=CC=C1)OC)C1=C(C=C(C=C1)Cl)CC1=C(C=CC=C1)Cl)=O | C24H23Cl2NO5S
